US05814651
1-[(7-Chloro-2-quinolinyl)methyl]4-[3(cyclopentyloxy)-4methoxyphenyl]-2-pyrrolidinone
4-[3-Cyclopentyloxy-4-methoxyphenyl]-2-pyrrolidinone (1.00 g, 3.63 mmol, 1.0 eq) was added to a room temperature suspension of (145 mg, 3.63 mmol, 1.0 eq) NaH (60% oil dispersion) in 30 ml of anhydrous DMF. After stirring at room temperature for 1 hour, (0.77 g, 3.63 mmol, 1.0 eq) 2-chloromethyl-7-chloroquinoline was added, and the reaction mixture was allowed to stir at room temperature for 60 hours. The reaction mixture was then diluted with 250 mL H2O and extracted with ethyl acetate. The ethyl acetate extract was washed twice with H2O, once with brine, dried over Na2SO4 and concentrated to yield a yellow oil. Silica gel chromatography eluting with 5% CH3OH/CH2Cl2 followed by recrystallization from ethyl acetate-hexane yielded 0.61 g, 37%, of white crystals. M.P.: 106°-107° C. Elemental Analysis Calc'd for C26H27N2O3Cl: Calc'd: C, 69.15; H, 6.03; N, 6.21. Found: C, 69.22; H, 5.75; N, 615.

reactant | 4-[3-Cyclopentyloxy-4-methoxyphenyl]-2-pyrrolidinone | 3.63 mmol, 1.00 g, 1.0 eq | C1(CCCC1)OC=1C=C(C=CC1OC)C1CC(NC1)=O | C16H21NO3
reactant | NaH | 3.63 mmol, 145 mg, 1.0 eq | [H-].[Na+]
reactant | 2-chloromethyl-7-chloroquinoline | 3.63 mmol, 0.77 g, 1.0 eq | ClCC1=NC2=CC(=CC=C2C=C1)Cl | C10H7Cl2N
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
solvent | H2O | 250 mL | O | H2O
product | 1-[(7-Chloro-2-quinolinyl)methyl]4-[3(cyclopentyloxy)-4methoxyphenyl]-2-pyrrolidinone | ClC1=CC=C2C=CC(=NC2=C1)CN1C(CC(C1)C1=CC(=C(C=C1)OC)OC1CCCC1)=O | C26H27ClN2O3
